US09302989B2
tert-butyl 4-(4-aminophenyl)cyclohex-3-enylcarbamate
tert-Butyl 4-(4-nitrophenyl)cyclohex-3-enylcarbamate (2.55 g, 8.01 mmol) was suspended in ethanol (30 ml) followed by addition of sodium sulfide, nonahydrate (10.37 ml, 80 mmol) dissolved in water (30 ml). The mixture was heated to 80° C. for 1.5 h and extracted with dichloromethane; the organic layers were combined, dried over magnesium sulfate, filtered and concentrated to give the title compound.

reactant | tert-Butyl 4-(4-nitrophenyl)cyclohex-3-enylcarbamate | 8.01 mmol, 2.55 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CCC(CC1)NC(OC(C)(C)C)=O | C17H22N2O4
reactant | sodium sulfide, nonahydrate | 80 mmol, 10.37 ml | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | tert-butyl 4-(4-aminophenyl)cyclohex-3-enylcarbamate | NC1=CC=C(C=C1)C1=CCC(CC1)NC(OC(C)(C)C)=O | C17H24N2O2
